US05484942
By carrying out the procedure according to that described in Example 8 below, using 1.82 g of (1RS,4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]-pyrrole 1-oxide and 1.39 g of [(3-dimethylamino-2-propoxy)phenyl]acetic acid, 0.3 g of (1RS,4aRS,7aRS)-6-{[(3-dimethylamino-2-propoxy)phenyl]acetyl}-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide is obtained in the form of white crystals; melting point 150° C.

reactant | (1RS,4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]-pyrrole 1-oxide | 1.82 g | C1(=CC=CC=C1)C1(CCS(C2CNCC21)=O)C2=CC=CC=C2 | C19H21NOS
reactant | [(3-dimethylamino-2-propoxy)phenyl]acetic acid | 1.39 g | CN(CC(C)OC1=C(C=CC=C1)CC(=O)O)C | C13H19NO3
product | (1RS,4aRS,7aRS)-6-{[(3-dimethylamino-2-propoxy)phenyl]acetyl}-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole 1-oxide | 0.3 g | CN(CC(C)OC1=C(C=CC=C1)CC(=O)N1CC2C(C1)C(CCS2=O)(C2=CC=CC=C2)C2=CC=CC=C2)C | C32H38N2O3S
